US05693827
1-Methylethyl 3-[[(5,6-dihydro-2-methyl-1,4-oxathiin-3-yl)carbonyl]amino]-4-fluorobenzoate (Compound 13)
Thionyl chloride (4.6 g, 0.039 mole) was added to a stirred mixture of 5,6-dihydro-2-methyl-1,4-oxathiin-3-carboxylic acid (6.0 g, 0.037 mole) and methylene chloride (50 ml). The mixture was warmed to 35°-40° C. for about 3 hours, then evaporated under reduced pressure. The residue, crude 5,6-dihydro-2-methyl-1,4-oxathiin-3-carbonyl chloride, was dissolved in methylene chloride (50 ml) and the ice-cooled solution treated dropwise with a solution of 1-methylethyl 3-amino-4-fluorobenzoate (7.4 g, 0.037 mole) and triethylamine (3.9 g, 0.039 mole) in methylene chloride (50 ml). The reaction mixture was stirred overnight at room temperature, and then washed in sequence with water (50 ml), dilute hydrochloric acid (3.5%, 50 ml), water (50 ml), dilute sodium hydroxide (2%, 25 ml) and water (50 ml), dried with anhydrous sodium sulfate and evaporated. Recrystallization of the solid residue from 100% ethanol (100 ml) gave light brown crystals, m.p. 132°-135° C. (7.8 g, 61% yield).

reactant | Thionyl chloride | 0.039 mole, 4.6 g | S(=O)(Cl)Cl | Cl2OS
reactant | 5,6-dihydro-2-methyl-1,4-oxathiin-3-carboxylic acid | 0.037 mole, 6.0 g | CC=1OCCSC1C(=O)O | C6H8O3S
reactant | 1-methylethyl 3-amino-4-fluorobenzoate | 0.037 mole, 7.4 g | NC=1C=C(C(=O)OC(C)C)C=CC1F | C10H12FNO2
reactant | triethylamine | 0.039 mole, 3.9 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-Methylethyl 3-[[(5,6-dihydro-2-methyl-1,4-oxathiin-3-yl)carbonyl]amino]-4-fluorobenzoate | 61% yield | CC=1OCCSC1C(=O)NC=1C=C(C(=O)OC(C)C)C=CC1F | C16H18FNO4S
